US03994918
A mixture of 6 g. of 5-hydrazinomethyl-5H-dibenzo[a,d] cyclohepten-5-ol, 160 mg. of platinum dioxide, 60 ml. of ethyl acetate and 60 ml. glacial acetic acid is hydrogenated at room temperature and about atmospheric pressure for 9 hours during which the uptake of hydrogen is about stoichimetric. The resulting mixture is filtered, evaporated in vacuo and the residue treated with 10% sodium bicarbonate solution and then with methylene chloride. The separated aqueous phase is extracted with methylene chloride and the combined organic phases extracted with water and then with saturated sodium chloride solution, followed by drying and evaporation in vacuo. The residue is crystallized from diethyl ether to obtain 5-aminomethyl-5H-dibenzo[a,d] cyclohepten-5-ol, m.p. 117°-120° C.

reactant | 5-hydrazinomethyl-5H-dibenzo[a,d] cyclohepten-5-ol | N(N)CC1(C2=C(C=CC3=C1C=CC=C3)C=CC=C2)O | C16H16N2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum dioxide | [Pt](=O)=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-aminomethyl-5H-dibenzo[a,d] cyclohepten-5-ol | NCC1(C2=C(C=CC3=C1C=CC=C3)C=CC=C2)O | C16H15NO
